US07902187B2
2-(2-amino-5-(trifluoromethoxy)phenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
2-(2-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethoxy)phenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one (0.018 mmol) was reacted with hydroxylamine hydrochloride (5 equiv.) in a mixture of ethanol and water (1.6 mL/0.6 mL) at reflux for 20 h. Upon completion of the reaction (monitoring by HPLC and MS), the solvent was removed in vacuo, the material thoroughly dried and used in the next step without further purification. MS (EI) m/z 488.4 (MH)+.

reactant | 2-(2-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethoxy)phenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 0.018 mmol | CC=1N(C(=CC1)C)C1=C(C=C(C=C1)OC(F)(F)F)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)C1=CC=NC=C1 | C28H26F3N7O3
reactant | hydroxylamine hydrochloride | 5 equiv. | Cl.NO
solvent | ethanol | C(C)O | C2H6O
solvent | water | 1.6 mL | O | H2O
product | 2-(2-amino-5-(trifluoromethoxy)phenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | NC1=C(C=C(C=C1)OC(F)(F)F)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)C1=CC=NC=C1 | C22H20F3N7O3
